US04904664
6-[4-(6-Oxo-1,4,5,6-tetrahydropyridazin-3-yl)phenyl]pyridazin-3(2H)-one
A solution of pyridinium bromide perbromide (0.6 g) in hot acetic acid (50 ml) was added dropwise over 10 minutes to a refluxing mixture of 1,4-bis(6-oxo-1,4,5,6-tetrahydropyridazin-3-yl)benzene (0.5 g) and pyridine (0.3 ml) in glacial acetic acid (100 ml). After addition the clear brown solution was stirred under reflux for 3 hours and was cooled and filtered. The filtrate was concentrated to small volume (ca 10 ml) and was treated with distilled water (100 ml) to yield a brown solid which was collected, washed with ethanol and ether and then dried. The crude material is recrystallised from acetic acid to afford the title compound, m.p. greater than 250° C., H NMR: δ (DMSOd6); 2.45 (2H, t), 2.95 (2H, t), 7.00 (1H, d), 7.88 (4H, m), 8.08 (1H, d) and 10.88 (1H, s).

reactant | pyridinium bromide perbromide | 0.6 g | C1=CC=[NH+]C=C1.Br[Br-]Br
reactant | 1,4-bis(6-oxo-1,4,5,6-tetrahydropyridazin-3-yl)benzene | 0.5 g | O=C1CCC(=NN1)C1=CC=C(C=C1)C1=NNC(CC1)=O | C14H14N4O2
reactant | pyridine | 0.3 ml | N1=CC=CC=C1 | C5H5N
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 6-[4-(6-Oxo-1,4,5,6-tetrahydropyridazin-3-yl)phenyl]pyridazin-3(2H)-one | O=C1CCC(=NN1)C1=CC=C(C=C1)C=1C=CC(NN1)=O | C14H12N4O2
